US06262056B1
2. 1-(4-fluoro-2-methoxyphenyl)piperazine
9 ml of chlorobenzene and H2O were distilled from a solution of 1.14 g of p-TosOH (6.03×10−3 moles) in 200 ml of chlorobenzene. The solution was cooled to 20° C. and then 1.19 g of 4-fluor-2-methoxyaniline hydrochloride (6.7×10−3 moles) and 1.31 g of bis (2-chloroethyl)amine hydrochloride (7.36×10−3 moles) were added. The reaction was held under reflux for 72 hours after which the solvent was removed and the residue was extracted with 5 ml of NaOH 2N and 30 ml of toluene. The organic phase was washed with H2O, was dried with Na2SO4 and the toluene was removed. The product was purified by silica column using dichloromethane/MeOH (9:1) as mobile phase. An oil was obtained. Yield: 25%.

reactant | H2O | O | H2O
reactant | 4-fluor-2-methoxyaniline hydrochloride | 6.7×10−3 moles, 1.19 g | Cl.FC1=CC(=C(N)C=C1)OC
reactant | bis (2-chloroethyl)amine hydrochloride | 7.36×10−3 moles, 1.31 g | Cl.ClCCNCCCl
solvent | chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 9 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(4-fluoro-2-methoxyphenyl)piperazine | Yield: 25% | FC1=CC(=C(C=C1)N1CCNCC1)OC | C11H15FN2O
